US06498154B1
6-(3-Fluorophenyl)-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine
Prepared according to the coupling procedure for Example 17 from 3-fluorophenyl boronic acid and 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine. A yellow solid: mp 139-140° C.; 1H-NMR (CDCl3) δ 7.40-7.19 (m, 6H), 7.01-6.94 (m, 1H), 6.72 (d, 1H, J=8.24 Hz), 4.90 (q, 1H, J=5.48 Hz), 1.62 (s, 3H), 1.59 (s, 3H), 1.46 (d, 3H, J=5.5 Hz); MS (ES) m/z 272 ([M+H]+).

reactant | 3-fluorophenyl boronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine | BrC=1C=CC2=C(C(OC(N2)C)(C)C)C1 | C11H14BrNO
product | 6-(3-Fluorophenyl)-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine | FC=1C=C(C=CC1)C=1C=CC2=C(C(OC(N2)C)(C)C)C1 | C17H18FNO
